US07875600B2
2-Bromomethyl-6-(triphenylmethoxymethyl)pyridine
A solution of 6-(triphenylmethoxymethyl)pyridine-2-methanol (16.8 g, 44 mmol) in CH2Cl2 at 0° C. was treated with triphenylphosphine (17.3 g, 66 mmol) and carbon tetrabromide (17.5 g, 52.8 mmol), stirred at 0° C. for 2.5 h then concentrated in vacuo to approximately a quarter of the original volume. The resulting solution was filtered through a pad of silica, washed with hexane:EtOAc (1:1) and the filtrate concentrated in vacuo to give the title compound (16.8 g, 86%) as a cream solid; NMR δH (400 MHz, DMSO) 4.14 (2H, s), 4.61 (2H, s), 7.27-7.48 (16H, m), 7.68 (1H, d, J 7.5 Hz) and 7.90 (1H, t, J 7.5 Hz); Rf (Hexane:EtOAc (2:1))=0.84

reactant | 6-(triphenylmethoxymethyl)pyridine-2-methanol | 44 mmol, 16.8 g | C1(=CC=CC=C1)C(OCC1=CC=CC(=N1)CO)(C1=CC=CC=C1)C1=CC=CC=C1 | C26H23NO2
reactant | triphenylphosphine | 66 mmol, 17.3 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrabromide | 52.8 mmol, 17.5 g | C(Br)(Br)(Br)Br | CBr4
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 2-Bromomethyl-6-(triphenylmethoxymethyl)pyridine | 16.8 g, 86% | BrCC1=NC(=CC=C1)COC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C26H22BrNO
